US08455488B2
Synthesis of N-benzyl-2-(2-((S)-3-(4-tert-butoxyphenyl)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethyl)-2-methylhydrazinecarboxamide (Compound II-1)
To the solution of 2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)acetic acid (Compound VI-3) 182 mg (0.77 mmol), hydroxybenzotriazole 104 mg (0.77 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide 148 mg (0.77 mmol) in dichloromethane 3 ml, a solution of (S)-2-amino-3-(4-tert-butoxyphenyl)-N—((S)-1,1-diethoxypropan-2-yl)-N-(naphthalen-1-ylmethyl)propanamide (Compound IV-2) 260 mg (0.51 mmol) and 4-dimethylaminopyridine 31 mg (0.26 mmol) in dichloromethane 3 ml was added and stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate 50 ml and washed with saturated sodium bicarbonate 50 ml, water 50 ml and brine 50 ml. The organic phase was dried with magnesium sulfate and filtered. The filtrate was concentrated in vacuo and the residue was purified on Buch silica gel column chromatography (chloroform:methanol=95:5) to obtain the title compound 333 mg (90%).

reactant | 2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)acetic acid | 0.77 mmol, 182 mg | C(C1=CC=CC=C1)NC(=O)NN(C)CC(=O)O | C11H15N3O3
reactant | hydroxybenzotriazole | 0.77 mmol, 104 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.77 mmol, 148 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | (S)-2-amino-3-(4-tert-butoxyphenyl)-N—((S)-1,1-diethoxypropan-2-yl)-N-(naphthalen-1-ylmethyl)propanamide | 0.51 mmol, 260 mg | N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C)CC1=CC=C(C=C1)OC(C)(C)C | C31H42N2O4
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.26 mmol, 31 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-benzyl-2-(2-((S)-3-(4-tert-butoxyphenyl)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethyl)-2-methylhydrazinecarboxamide | 333 mg, 90% | C(C1=CC=CC=C1)NC(=O)NN(C)CC(=O)N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C)CC1=CC=C(C=C1)OC(C)(C)C | C42H55N5O6
